* Spice netlister for gnetlist
R1 n1 n0 10k
C1 n1 0 1nF
Vin n0 0 AC 1v DC 1v pulse 0 5V 1s 1s 1s 5s 12s

.AC DEC 10 1 1E5
.tran 1s 10s
.print tran v(n1)
.print ac v(n1) db(v(n1))
.END
